US08975254B2
(S)-3-acetyl-N-(1-(3-(4-cyano-3-(trifluoromethyl)phenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide
The title compound was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-(trifluoromethyl)-benzonitrile (110 mg, 0.374 mmol) and 3-acetyl-1H-pyrazole-5-carboxylic acid (58 mg, 0.374 mmol). The product was purified twice with flash-chromatography. Yield 8 mg (4%). 1H-NMR (400 MHz; d6-DMSO): δ 1.17 (d, 3H), 2.48 (m, 3H), 4.29-4.38 (m, 2H), 4.41-4.50 (m, 1H), 7.01 (d, 1H), 7.29 (s, 1H), 7.84 (d, 1H), 8.15-7.19 (m, 1H), 8.24 (s, 1H), 8.44-8.50 (m, 2H), 14.13 (m, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-(trifluoromethyl)-benzonitrile | 0.374 mmol, 110 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)C(F)(F)F)C | C14H13F3N4
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 0.374 mmol, 58 mg | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
product | (S)-3-acetyl-N-(1-(3-(4-cyano-3-(trifluoromethyl)phenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | C(C)(=O)C1=NNC(=C1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)C(F)(F)F)C | C20H17F3N6O2
